US08754107B2
A mixture of tert-butyl 3-oxopyrrolidine-1-carboxylate (0.91 g, 4.9 mmol), 4-phenylpiperidine (0.792 g, 4.91 mmol) and titanium (IV) isopropoxide (1.39 g, 4.91 mmol) was stirred at room temperature for about 16 h. Diethylaluminum cyanide solution (1M in DCE, 9.82 mL) was added and the reaction mixture was stirred for about 4 hours then quenched by the dropwise addition of saturated aqueous sodium bicarbonate solution. The reaction mixture was filtered and the layers separated. The organic phase was washed with saturated aqueous sodium bicarbonate (50 mL) and brine (50 mL), dried over magnesium sulfate and concentrated under reduced pressure to yield tert-butyl 3-cyano-3-(4-phenylpiperidin-1-yl)pyrrolidine-1-carboxylate (1.2 g, 3.38 mmol) as a yellow oil. HPLC (Table 1, Method f) Rt 6.03 min; m/z: (M+H)+ 356.

reactant | tert-butyl 3-oxopyrrolidine-1-carboxylate | 4.9 mmol, 0.91 g | O=C1CN(CC1)C(=O)OC(C)(C)C | C9H15NO3
reactant | 4-phenylpiperidine | 4.91 mmol, 0.792 g | C1(=CC=CC=C1)C1CCNCC1 | C11H15N
reactant | Diethylaluminum cyanide | 1M, 9.82 mL | [C-]#N.C(C)[Al+]CC
catalyst | titanium (IV) isopropoxide | 4.91 mmol, 1.39 g | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | tert-butyl 3-cyano-3-(4-phenylpiperidin-1-yl)pyrrolidine-1-carboxylate | 3.38 mmol, 1.2 g | C(#N)C1(CN(CC1)C(=O)OC(C)(C)C)N1CCC(CC1)C1=CC=CC=C1 | C21H29N3O2
